US07601844B2
N—((R)-1-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-yl)cyclopentanecarboxamide
(R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-aminium chloride (52.4 mg, 0.14 mmol), cyclopentane carbonylchloride (20 mg, 0.17 mmol), THF (5 mL), and DIPEA (135 mg, 1.1 mmol) were stirred overnight at rt. The reaction was concentrated, and Example 627 was isolated as a white solid using preparative reverse-phase HPLC (30.75 mg, 52.3% yield), M+H=421.31.

reactant | (R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-aminium chloride | 0.14 mmol, 52.4 mg | [Cl-].ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)[NH3+])=O)(C)C)O
reactant | cyclopentane carbonylchloride | 0.17 mmol, 20 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | DIPEA | 1.1 mmol, 135 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N—((R)-1-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-yl)cyclopentanecarboxamide | 52.3% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)NC(=O)C1CCCC1)=O)(C)C)O | C23H33ClN2O3
